US09085583B2
To a mixture of 2,6-dimethyl-7-oxo-1-(1-phenylethyl)-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylic acid (200 mg, 0.64 mmol) and 4-(aminomethyl)-3,6-dimethylpyridin-2(1H)-one (118 mg, 0.78 mmol) in N,N-dimethylformamide (20 mL) was added o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (365 mg, 0.96 mmol) and triethylamine (388 mg, 3.84 mmol) at room temperature. The resultant mixture was stirred at room temperature for 2 hours. Once starting material left was consumed, the reaction mixture was quenched with water (50 mL), and extracted with ethyl acetate (50 mL*3). The combined organic layers were washed with brine (100 mL*2), dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=1:2) to give N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2.6-dimethyl-7-oxo-1-(1-phenylethyl)-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxamide (150 mg, 53%) as a white solid. LRMS (M+H+) m/z: calcd 444.22. found 444. HPLC purity (214 nm): 97%. 1H NMR (400 MHz, CD3OD): δ 7.22-7.13 (m, 4H), 7.01 (d, J=7.2 Hz, 2H), 6.69 (d, J=7.2 Hz, 1H), 5.99 (s, 1H), 4.35 (s, 2H), 3.50-3.21 (m, 4H), 2.26 (s, 3H), 2.13 (s, 3H), 2.06 (s, 3H), 1.82 (d, J=7.2 Hz, 3H).

reactant | 2,6-dimethyl-7-oxo-1-(1-phenylethyl)-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxylic acid | 0.64 mmol, 200 mg | CC1=C(C2=C(C(N(C=C2)C)=O)N1C(C)C1=CC=CC=C1)C(=O)O | C18H18N2O3
reactant | 4-(aminomethyl)-3,6-dimethylpyridin-2(1H)-one | 0.78 mmol, 118 mg | NCC1=C(C(NC(=C1)C)=O)C | C8H12N2O
reactant | o-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.96 mmol, 365 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 3.84 mmol, 388 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2.6-dimethyl-7-oxo-1-(1-phenylethyl)-6,7-dihydro-1H-pyrrolo[2,3-c]pyridine-3-carboxamide | 150 mg, 53% | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C=2C(N(C=CC21)C)=O)C(C)C2=CC=CC=C2)C | C26H28N4O3
